.SUBCKT MPY634_behavioral X1 X2 SF Y1 Y2 +Vs Out Z1 Z2 -Vs

ECS3 2 0 VALUE = {LIMIT(V(SF,0),3,10)}
ECS1 3 0 VALUE = {((V(4,0)*V(5,0))/V(VF1,0)-V(6,0))*17783}
ECS4 Out 0 VALUE = {LIMIT(V(3,0),V(-Vs,0),V(+Vs,0))}
ECS2 VF1 0 VALUE = {V(2,0)*9.9/7-29/7}
EZ   6 0 Z1 Z2  1
EY   5 0 Y1 Y2  1
EX   4 0 X1 X2  1

.ENDS MPY634_behavioral
